US06613790B2
N,N-bis(4-methoxybenzyl)-4-(5-methyl-3-phenylisoxazol-4-yl)benzenesulfonamide
A mixture of 4-(5-methyl-3-phenyl-4-isoxazolyl)benzenesulfonamide (3.14 g, 0.01 mol) and potassium carbonate (5.53 g, 0.04 mol) in DMF (50 mL) was stirred at room temperature for 5 hours. 4-methylbenzylchloride (3.45 g, 0.022 mol) was then added and the resulting mixture was stirred overnight. Ethyl acetate (50 mL) and sat. water (100 mL) were then added and the layers were separated. The organic layer was washed with NaHCO3 (50 mL), brine, 1 N HCl (25 mL) and water (2×25 mL). Then the organic layer was then dried over MgSO4, filtered and concentrated under vacuum. The resulting product was crystallized from boiling ethanol to afford 5.2 g of the product as a white solid: mp, 133.8-135.2° C.

reactant | 4-(5-methyl-3-phenyl-4-isoxazolyl)benzenesulfonamide | 0.01 mol, 3.14 g | CC1=C(C(=NO1)C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N | C16H14N2O3S
reactant | potassium carbonate | 0.04 mol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylbenzylchloride | 0.022 mol, 3.45 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | N,N-bis(4-methoxybenzyl)-4-(5-methyl-3-phenylisoxazol-4-yl)benzenesulfonamide | 5.2 g | COC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)C=2C(=NOC2C)C2=CC=CC=C2)CC2=CC=C(C=C2)OC)C=C1 | C32H30N2O5S
